US05385692
Subsequently, 1.55 g (4.68 mM) of N-(2-octylindan-5-carbonyl)glycine and 25 ml of dry benzene were placed in a 50 ml-three necked flask. Under stirring at room temperature, 0.66 ml (4.74 mM) of triethylamine and 0.46 ml (4.81 mM) were successively added to the above mixture, followed by further stirring for 23 minutes at room temperature to precipitate a crystal. After the reaction, the precipitated triethylamine hydrochloride was removed by filtration and the filtrate was evaporated under reduced pressure to obtain a residue. The residue was dried under reduced pressure to obtain 2-(2-octylindan-5-yl)-5-oxazolone.

reactant | N-(2-octylindan-5-carbonyl)glycine | 4.68 mM, 1.55 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(=O)NCC(=O)O | C20H29NO3
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 4.74 mM, 0.66 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-octylindan-5-yl)-5-oxazolone | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C1OC(C=N1)=O | C20H27NO2
